US09340544B2
N-(4-Trifluoromethyl-phenyl)-formamide
Was prepared according to Example 2 from 4-(trifluoromethyl)aniline and formic acid.

reactant | 4-(trifluoromethyl)aniline | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | formic acid | C(=O)O | CH2O2
product | N-(4-Trifluoromethyl-phenyl)-formamide | FC(C1=CC=C(C=C1)NC=O)(F)F | C8H6F3NO
